US04335142
PREPARATION OF 2-CHLORO-1-(m-NITROPHENYLSULFONYL)ETHYL m-NITROPHENYL SULFIDE
To a solution of 0.161 mole of m-nitrobenzenesulfenyl chloride in enough carbon tetrachloride to make 265 ml was added 34.1 g (0.160 mole) of m-nitrophenyl vinyl sulfone. The reaction mixture was allowed to stand at room temperature in a closed flask for several weeks. Evaporation of the solvent under reduced pressure gave 44 g (68%) of crude product m.p. 98°-110°. Recrystallization from 120 ml of toluene gave 23 g (36%) of pure product, m.p. 105.0°-106.5°.

reactant | m-nitrobenzenesulfenyl chloride | 0.161 mole | [N+](=O)([O-])C=1C=C(C=CC1)SCl | C6H4ClNO2S
reactant | m-nitrophenyl vinyl sulfone | 0.160 mole, 34.1 g | C(=C)S(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H7NO4S
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-CHLORO-1-(m-NITROPHENYLSULFONYL)ETHYL m-NITROPHENYL SULFIDE | 23 g, 36% | [N+](=O)([O-])C=1C=C(C=CC1)SC(CCl)S(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C14H11ClN2O6S2
